US05614532
4-Benzylamino-7-chloro-3-phenyl-2(1H)-quinolone
7-Chloro-4-hydroxy-3-phenyl-2(1H)-quinolone (0.5 g) and benzylamine (20 ml) was heated under reflux for 24 h. The reaction was concentrated under high vacuum and the residue was triturated with diethyl ether and filtered. The filtrate was evaporated and purified by chromatography (25% ethyl acetate-dichloromethane eluent) to give the title compound as a white solid (0.045 g); mp 179° C. (diethyl ether). Found: C, 72.63; H, 4.45; N, 7.65. C22H17ClN2O.0.1H2O requires C, 72.87; H, 4.78; o N, 7.72%; δ (360 MHz, DMSO-d6) 3.81 (2H, d, J=4.8 Hz, PhCH2NH), 8.67 (1H, t, J=4.8 Hz, PhCH2NH), 6.85 (2H, d, J=6.5 Hz, ortho aromatics), 7.10-7.33 (11H, m, aromatics), 8.16 (1H, d, J=8.8 Hz, 5-H), 11.23 (1H, br s, NH); m/z (EI) 360 (M+).

reactant | 7-Chloro-4-hydroxy-3-phenyl-2(1H)-quinolone | 0.5 g | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC=CC=C1)O | C15H10ClNO2
reactant | benzylamine | 20 ml | C(C1=CC=CC=C1)N | C7H9N
product | 4-Benzylamino-7-chloro-3-phenyl-2(1H)-quinolone | 0.045 g | C(C1=CC=CC=C1)NC1=C(C(NC2=CC(=CC=C12)Cl)=O)C1=CC=CC=C1 | C22H17ClN2O
